Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
neck pain
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ h/o IV drug use w/ recent relapse who presents with 
complaint of severe neck pain and fever.  She reports that 
approximately area left-sided neck pain that is constant, 
however progressively worsening.  She had previously been sober 
from heroin for the last 4 months, however on the day prior to 
admission, she used heroin in hopes of treating her pain.  She 
also noticed that she had fevers and chills occurring over the 
last few days.  She reports that she may have had a fever even 
last week while denying other localizing symptoms.  She 
otherwise denies any falls or trauma.  She denies any weakness 
or numbness or changes in sensation she denies any bowel or 
bladder incontinence she denies cough, shortness of breath, 
abdominal pain, dysuria she denies recent other injections, and 
as noted above, she reports that his neck pain and fever started 
prior to the her recent use of heroin.

In the ED, initial VS were 100.4 114 127/74 15 98% RA. 
-The patient received Tylenol, multiple doses of IV dilaudid, 
ibuprofen, vancomycin 1000 mg x 1. 
-CXR was negative for pneumonia.
-MRI showed minimal diffuse enhancement in the posterior 
cervical paraspinal soft dissues, indeterminate for an 
infectious process.
-Labs notable for CBC with WBC 9.2, H/H of 11.1/34.7, Plt 191. 
BMP WNL. CRP elevated to 146.4.  
-Upon arrival to the floor, the patient tells the story as 
follows.
-CSF with 59 WBC, RBC 2825, poly 97%. Protein 156, glucose 56. 

Upon arrival to the floor, the patient appears uncomfortable.  
She tells the story as above.  She reports that nothing has 
improved her neck pain.  She describes her neck pain is 
posterior left-sided pain,, but associated with occasional 
spasms.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and negative. 
 
Past Medical History:
- History of IV heroin use
- Prior lumpectomy
 
Social History:
___
Family History:
denies family history of coronary artery disease or heart valve 
defects.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
-VITALS: 99.8 PO 133 / 84 102 20 95 RA 
-GENERAL: Alert and in no apparent distress
-EYES: Anicteric, pupils equally round
-ENT: Ears and nose without visible erythema, masses, or trauma. 
 Oropharynx without visible lesion, erythema or exudate Mucous 
membranes moist  Neck stiff, flexion and rotation significantly 
limited by pain, no true midline tenderness, + tenderness to 
palpation along left paraspinal muscles of the cervical region
-CV: Heart regular, no murmur
-RESP: Lungs clear to auscultation with good air movement 
bilaterally
-GI: Abdomen soft, non-distended, non-tender to palpation
-MSK: Neck stiff as described above, moves all extremities, 
strength ___ and symmetric bilaterally in all limbs
-SKIN: No rashes or ulcerations noted
-NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs
-PSYCH: pleasant, appropriate affect

DISCHARGE PYHSICAL EXAM 

 
Pertinent Results:
LABS
___ 12:25AM BLOOD WBC-9.2 RBC-3.96 Hgb-11.1* Hct-34.7 
MCV-88 MCH-28.0 MCHC-32.0 RDW-13.4 RDWSD-43.7 Plt ___
___ 12:25AM BLOOD ___ PTT-30.1 ___

___ 12:25AM BLOOD Glucose-131* UreaN-7 Creat-0.6 Na-137 
K-3.8 Cl-97 HCO3-24 AnGap-16
___ 12:25AM BLOOD ALT-100* AST-73* LD(LDH)-169 CK(CPK)-28* 
AlkPhos-239* TotBili-0.3
___ 07:00AM BLOOD Calcium-8.5 Phos-2.1* Mg-2.0

___ 03:34PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS* 
IgM HAV-NEG
___ 07:00AM BLOOD HIV Ab-NEG
___ 03:34PM BLOOD HCV Ab-POS*

___ 08:00AM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-POS* mthdone-POS*

MICROBIOLOGY
-___ set: ___ bottles positive STAPH AUREUS COAG + (oxacillin 
sensitive)
-___ set: ___ bottles positive STAPH AUREUS COAG + (oxacillin 
sensitive)
-___ set: NGTD
-___ set: NGTD
-___ sets: NGTD

-___ CSF: NGTD
___ 03:48PM: TNC:43* RBC:16* Polys:97 ___ ___ 03:48PM  TNC:59* RBC:2825* Polys:97 ___ ___ 03:48PM TotProt:156* Glucose:56

IMAGING/STUDIES
-MRI ___
1. No evidence for epidural collection to suggest abscess.  No 
evidence to suggest discitis. 
2. Mild edema and enhancement within the posterior and 
interspinous soft tissues in the mid and upper cervical spine.  
Findings are nonspecific, and correlation with any history of 
recent trauma is recommended.  However, given associated small 
left C4-C5 facet joint effusion and pattern, which could be  
degenerative in nature, given the patient's clinical history, an 
early infectious synovitis with paraspinal soft tissue 
involvement is a consideration. 
3. Multilevel spondylosis of the cervical spine, as detailed 
above.  Findings are most significant at the level of C3-4 with 
moderate canal stenosis, moderate right and minimal left neural 
foraminal narrowing. 
4. Multilevel spondylosis of the lumbar spine, most notable at 
L5-S1 where there is moderate severe bilateral neural foramina 
narrowing as well as  severe crowding of the left subarticular 
zone, likely impinging on the traversing left S1 nerve root. 
5. Additional findings as described above. 

-ECHO ___:  no vegetations seen
 
Brief Hospital Course:
___ h/o IVDU who presents with fever and neck pain found to have 
positive blood cultures.  

Patient left against medical advice. 

1. Bloodstream infection (coag + staph)
-Multiple blood cultures positive for coat + staph concerning 
for endocarditis h/o IVDU, relation to neck process, or 
potential seeding from meningitis started on broad spectrum 
antibiotics.   TTE without vegetation; however, patient refused 
TEE.  After discussion of etiology of bacteremia, workup of 
endocarditis, treatment of endocarditis or other blood stream 
infection with prolonged IV antibiotics ___ weeks with 
PICC/midline, and need to stay in the hospital/rehab she refused 
all further care requesting to sign AMA.  Discussed risk of 
worsening infection including sepsis, shock, stroke, septic 
emboli, end organ damage, paralysis, or death to which she 
expressed understanding and accepted risk.  Given risk of giving 
oral antibiotics without outpatient follow up (not interested in 
PCP) and inadequacy of treating bacteremia with partial work up 
patient was not discharged with antibiotics.   ID consult placed 
but patient left AMA before being seen by them.  PCP arranged to 
help educate patient. 
 
2. Neck pain
-In setting of clinical symptoms presentation concerning for 
meningitis s/p LP in the ED with slightly elevated WBC and 
protein ?viral/bacterial meningitis started on empiric 
antibiotics pending CSF cultures, which have been negative thus 
far. Antibiotic stopped when patient signed AMA due to 
risk>benefit of continuing with anything oral. She was given IV 
toradol, IV dilaudid, and cyclobenzaprine during admission. 

3. IVDU
-Positive for oxycodone, opiates, and methadone.  HIV negative 
with positive Hepatitis C positive, which was discussed with 
patient.  She declined social work.  She left AMA before 
addiction services could see her. 

4. Normocytic Anemia
-Unknown baseline due to paucity of labs.  

5. Asymptomatic Bacteriuria
-UA likely contaminant with no growth urine culture. 

6. Transaminitis/cholestasis
-HCV positive w/ reflex viral load pending.  HAV Ab positive 
with negative IgM suggesting previous vaccination/exposure and 
HBsAb positive with negative HBsAg and HBcAb suggesting 
immunization. Patient must demonstrate sobriety prior to 
discussion about hepatitis C treatment.  

>30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bacteremia/blood stream infection
Neck pain rule out meningitis 
Hepatitis C 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted with neck pain found to have fever.  You had a 
lumbar puncture, which was concerning for meningitis (infection) 
and started on antibiotic awaiting the results of the cultures.  
You also had blood cultures positive for bacteria; you are at 
high risk of developing an infection on your heart valve called 
endocarditis from your drug use recommending an ultrasound of 
your heart to better evaluation.  

Overall these types of infections require IV antibiotics for -6 
weeks, which you do not want to do at this time.  You also did 
not want to proceed with the ultrasound of your heart to 
investigate for endocarditis.  You are at risk for progression 
of this infection, which could cause worsening infection and 
sepsis, low blood ___ damage, stroke, organ 
damage, and death, which you understood.  The infectious disease 
team was not able to see you before you left and not able to 
provide any recommendations.  

At this time oral antibiotics will not treat this type of 
infection and without further investigation or outpatient follow 
up with a PCP it will be more dangerous to discharge you on 
them.  It is very important for you to get a PCP; we have 
arranged for you to see a PCP here who can continue to discuss 
your ongoing medical issues with you.

It was a pleasure taking care of you.  
-Your ___ team  
 
Followup Instructions:
___